US07252925B2
1-[2-(2-Ethoxyethoxy)ethyl]-2-methyl-1H-benzimidazole was synthesized as in Synthesis Example 1 except that an equimolar amount of 2-methylbenzimidazole was used instead of benzimidazole and an equimolar amount of 2-chloroethyl 2-ethoxyethyl ether was used instead of 2-chloroethyl methyl ether. Yield 84%.

reactant | 2-methylbenzimidazole | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 2-chloroethyl 2-ethoxyethyl ether | C(C)OCCOCCCl | C6H13ClO2
product | 1-[2-(2-Ethoxyethoxy)ethyl]-2-methyl-1H-benzimidazole | Yield 84% | C(C)OCCOCCN1C(=NC2=C1C=CC=C2)C | C14H20N2O2
